US07951954B2
b) [2-(2,6-Dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (1.5 g) was added to a solution of [2-(2,6-dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-amine (2.0 g) in dichloromethane (50 mL). After 18 hours the reaction mixture was evaporated. Purification on silica, eluting with a gradient of iso-hexane/dichloromethane [1:1 to 0:1] afforded the subtitle product as an oil (2.3 g).

reactant | Di-tert-butyl dicarbonate | 1.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | [2-(2,6-dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-amine | 2.0 g | ClC1=C(C(=CC=C1)Cl)CCNCC1=CC(=CC=C1)I | C15H14Cl2IN
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | [2-(2,6-Dichloro-phenyl)-ethyl]-(3-iodo-benzyl)-carbamic acid tert-butyl ester | 2.3 g | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)I)CCC1=C(C=CC=C1Cl)Cl)=O | C20H22Cl2INO2
